### PR TITLE
wip: use fun_prop for BoundedCompactSupport

### PR DESCRIPTION
**Pull request by grunweg**
- Many proofs can be golfed nicely. This PR also golfs some other proofs using fun_prop.
- The proof in `AntichainOperator` puzzles me and smells like a fun_prop bug.
- A couple of proofs do not work because `BoundedCompactSupport.indicator` has a measurability side condition; running `fun_prop (discharger := assumption)` did not work. Perhaps a better incantation will fix this.

### CODE REVIEW

File: Carleson/Operators.lean [hunk 1]
```diff
@@ -442,17 +447,17 @@ lemma adjointCarlesonSum_adjoint
       unfold carlesonSum; simp_rw [Finset.mul_sum]
     _ = ∑ p with p ∈ ℭ, ∫ x, conj (g x) * carlesonOn p f x := by
       apply integral_finset_sum; intro p _
-      refine hg.conj.mul hf.carlesonOn |>.integrable
+      change Integrable (star g * carlesonOn p f) volume
```
Comment (grunweg) [inline Carleson/Operators.lean]: This line indicates the issue; that one occurs in many other places as well.
